US06340759B1
(290-3) N-Methyl-2-methylthiophene-3-carboxamide
2-Methyl-3-thiophenecarboxylate chloride (60.5 g)/THF (300 ml) solution was added dropwise to a 40% aqueous solution of methylamine (400 ml) at 0° C. Ethyl acetate (2 l) was added thereto, and then the organic layer was washed sequentially with water, a 5N aqueous solution of hydrochloric acid, an aqueous solution of saturated sodium bicarbonate, water and brine, dried and evaporated. The resulting residue was crystallized from n-hexane, to give the title compound as a white powder (43.5 g, yield; 71.8%).

reactant | 2-Methyl-3-thiophenecarboxylate chloride | 60.5 g | [Cl-].CC=1SC=CC1C(=O)[O-]
reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | methylamine | 400 ml | CN | CH5N
solvent | Ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
product | N-Methyl-2-methylthiophene-3-carboxamide | 43.5 g, yield; 71.8% | CNC(=O)C1=C(SC=C1)C | C7H9NOS
